US05215738
Preparation of 5-Bromonicotinamide
All of the 5-bromonicotinoyl chloride prepared above was dissolved in 100 ml hot 1,2-dimethyoxyethane and added slowly during about 15 min to 500 ml cold, concentrated NH4OH in a 1 l round-bottom flask. The mixture was then stirred 1.5 hr at -10° C. to about 5° C. followed by filtration to collect white crystalline plates of 5-bromonicotinamide which were dried at 56° C. for 1.0 min to afford 17.79 g (89.2% yield) mp 222°-223° C. (lit. 224°-225° C., Czuba, W., Rec Trav Chim (1963) 82: 988-996; lit 141°-142° C., Morisawa, Y., J Med Chem (1977) 20: 129).

reactant | 5-bromonicotinoyl chloride | BrC=1C=NC=C(C(=O)Cl)C1 | C6H3BrClNO
reactant | NH4OH | [NH4+].[OH-]
solvent | 1,2-dimethyoxyethane | 100 ml | COCCOC | C4H10O2
product | 5-Bromonicotinamide | BrC=1C=NC=C(C(=O)N)C1 | C6H5BrN2O
